US05554615
Ethyl 4-(ethoxycarbonylmethyloxy)benzoate
Sodium hydride (min. 604 paraffinic dispersion, 2.95 g, about 74 mmol) was washed with anhydrous hexane in a nitrogen stream and suspended in anhydrous dimethylformamide. The obtained suspension was stirred under cooling with ice, followed by the dropwise addition of a solution of ethyl 4-hydroxybenzoate (11.2 g, 67 mmol) in dimethylformamide. The obtained mixture was stirred at room temperature for 30 minutes and cooled with ice again, followed by the dropwise addition of a solution of ethyl bromoacetate (12.9 g, 77 mmol) in anhydrous dimethylformamide. The obtained mixture was stirred at room temperature to complete a reaction. The reaction mixture was filtered to remove insolubles and the filtrate was concentrated under a reduced pressure. The residue was dissolved in diethyl ether and the obtained solution was washed with an aqueous solution of sodium hydrogencarbonate and an aqueous solution of common salt, dried and distilled to remove the solvent. The residue was purified by silica gel column chromatography. Yield: 16.8 g.

reactant | Sodium hydride | about 74 mmol, 2.95 g | [H-].[Na+]
reactant | ethyl 4-hydroxybenzoate | 67 mmol, 11.2 g | OC1=CC=C(C(=O)OCC)C=C1 | C9H10O3
reactant | ethyl bromoacetate | 77 mmol, 12.9 g | BrCC(=O)OCC | C4H7BrO2
solvent | hexane | CCCCCC | C6H14
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | Ethyl 4-(ethoxycarbonylmethyloxy)benzoate | C(C)OC(=O)COC1=CC=C(C(=O)OCC)C=C1 | C13H16O5
